US07807720B2
ethyl 2-(4-fluoro-3,5-dimethylbenzyl)propanoate (B2)
To a solution of Ethyl 3-(4-fluoro-3,5-dimethylphenyl)-2-methylacrylate (0.190 g, 0.855 mmol) in 10 mL of MeOH, was added Pd (10 wt % on activated carbon, 0.038 g). After stirring at room temperature under H2 (1 atm) for 40 h, the reaction mixture was filtered through a pad of Celite and washed with MeOH. The filtrate was concentrated under reduced pressure. The crude product was used directly in the next step without further purification (0.138 g, 88% yield). LC-MS: tR=10.9 min; m/z 239 (M+H)+.

reactant | Ethyl 3-(4-fluoro-3,5-dimethylphenyl)-2-methylacrylate | 0.855 mmol, 0.190 g | FC1=C(C=C(C=C1C)C=C(C(=O)OCC)C)C | C14H17FO2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd | 0.038 g | [Pd] | Pd
product | ethyl 2-(4-fluoro-3,5-dimethylbenzyl)propanoate | 88% yield | FC1=C(C=C(CC(C(=O)OCC)C)C=C1C)C | C14H19FO2
